US06448241B1
2-methoxycarbonyl-7-trifluoromethyl-3,4-dihydro-2H-[1,4]benzothiazine in 50 ml of toluene and about 10 ml of tetrahydrofuran, kept under argon. The reaction mixture is heated for 1 hour under reflux, and then after returning to 20° C. is hydrolysed with 70 ml of a saturated aqueous sodium hydrogen carbonate solution and 40 ml of ethyl acetate. The insoluble matter is removed by filtration and the filtrate is separated after settling out, the organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2 kPa). The yellow oil obtained is chromatographed on 35 g of 20-45 μm silica gel contained in a column 2 cm in diameter, eluting with an ethyl acetate and cyclohexane mixture (75-25 by volume). 0.72 g of 2-hydroxymethyl-7-trifluoromethyl-3,4-dihydro-2H-[1,4]benzothiazine is thus obtained in the form of a yellow solid melting at 80° C.

reactant | 2-methoxycarbonyl-7-trifluoromethyl-3,4-dihydro-2H-[1,4]benzothiazine | COC(=O)C1SC2=C(NC1)C=CC(=C2)C(F)(F)F | C11H10F3NO2S
reactant | sodium hydrogen carbonate | 70 ml | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | about 10 ml | O1CCCC1 | C4H8O
product | 2-hydroxymethyl-7-trifluoromethyl-3,4-dihydro-2H-[1,4]benzothiazine | 0.72 g | OCC1SC2=C(NC1)C=CC(=C2)C(F)(F)F | C10H10F3NOS
